US08604222B2
In a preferred embodiment the said form is obtained by conventional spray drying technique using a LabPlant SPD-005® spray drier. Nebivolol hydrochloride is dissolved in alcohol such as methanol under heating to obtain a clear solution or adjust pH below 2.0 of nebivolol base solution/suspension in alcohol using aqueous HCl/Alcoholic HCl/HCl gas, which is then spray dried for a period of 2 to 5 hours, and further isolating nebivolol hydrochloride Form T1.

reactant | nebivolol | pH below 2.0 | C1=CC2=C(C=C1F)CCC(O2)C(CNCC(C3CCC=4C=C(C=CC4O3)F)O)O | C22H25F2NO4
reactant | HCl HCl | Cl.Cl | 2ClH
product | nebivolol hydrochloride | C1=CC2=C(C=C1F)CCC(O2)C(CNCC(C3CCC=4C=C(C=CC4O3)F)O)O.Cl | InChI=1S/C22H25F2NO4.ClH/c23-15-3-7-19-13(9-15)1-5-21(28-19)17(26)11-25-12-18(27)22-6-2-14-10-16(24)4-8-20(14)29-22;/h3-4,7-10,17-18,21-22,25-27H,1-2,5-6,11-12H2;1H
